US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-2-(isopropylamino)quinoline
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(isopropylamino)quinoline (33 mg, 0.08 mmol) is deprotected with TFA in CH2Cl2 and transformed into the title product according to method C using 4-fluorophenyl isocyanate (13 μL, 0.11 mmol) and triethylamine (80 μL, 0.57 mmol) to give a colorless solid.

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(isopropylamino)quinoline | 0.08 mmol, 33 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)NC(C)C | C21H29ClN4O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-2-(isopropylamino)quinoline | ClC1=CC=C2C(=CC(=NC2=C1)NC(C)C)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C23H25ClFN5O
